2161-11-17 08:46:00 Physician Resident Progress Note
Chief Complaint:  SOB, headache
   24 Hour Events:
   Bronchoscopy showed stent in main bronchus.
   Patient went to OR in AM to remove stent.
   Spoke with radiation oncology (p [**Numeric Identifier 2545**]) who recommend transfer east at
   time of callout so patient can get XRT while in house.
   Allergies:
   Zetia (Oral) (Ezetimibe)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-17**] 05:58 AM
   Vancomycin - [**2161-11-17**] 08:25 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-11-17**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-17**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 74 (63 - 89) bpm
   BP: 123/87(91) {87/40(52) - 153/102(109)} mmHg
   RR: 17 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (-1 - 9)mmHg
   Total In:
                                                                  2,079 mL
                                                                  2,167 mL
   PO:
   TF:
   IVF:
                                                                     79 mL
                                                                  2,167 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                    620 mL
   Urine:
                                                                     80 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                  1,547 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 446 (446 - 446) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 12 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/40/153/24/1
   Ve: 8.8 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Gen: intubated, sedated
   HEENT: pupils pinpoint, intubated
   CV: RRR, no m/r/g
   Pulm: poor air movment at left base
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   113 K/uL
   8.2 g/dL
   140 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.2 mEq/L
   38 mg/dL
   111 mEq/L
   141 mEq/L
   24.2 %
   7.4 K/uL
        [image002.jpg]
                            [**2161-11-16**]  08:48 PM
                            [**2161-11-16**]  11:09 PM
                            [**2161-11-17**]  03:50 AM
   WBC
   7.6
   7.4
   Hct
   27.8
   24.2
   Plt
   136
   113
   Cr
   1.4
   1.4
   TropT
   2.04
   1.34
   TCO2
   27
   Glucose
   155
   140
   Other labs: PT / PTT / INR:13.7/62.1/1.2, CK / CKMB /
   Troponin-T:71/13/1.34, ALT / AST:20/21, Alk Phos / T Bili:49/0.3,
   Differential-Neuts:91.0 %, Lymph:7.2 %, Mono:1.7 %, Eos:0.0 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.2 g/dL, LDH:240 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A/P:  Mr. [**Known lastname 2534**] is an 81 year old male with recently diagnosed SCLC
   with brain mets s/p XRT and ventriculostomy placment, admitted with
   migrated endobronchial stent with LLL collapse, episode of a. fib s/p
   cardioversion in ED, and headaches.
   .
   1.  SOB.  Patient has SCLC in LLL, s/p endobronchial stent placement on
   [**11-6**].  Stent now found to have migrated to trachea.  Bronch showed
   secretions with LLL collapse.   Went to OR to remove stent, but this
   likely contributed to patients SOB.  Given risk of post-obstructive
   pneumonia was started on Vanco/Zosyn, though patient denies fevers and
   there is no leukocytosis.
   - vanco/zosyn to cover pneumonia
   - send sputum culture and gram stain
   - possible extubation in PM after OR
   - albuterol, atrovent
   .
   2.  Atrial fibrillation versus MAT.  Patient had an episode of A. fib
   with RVR to 200s in ED, complicated by shortness of breath and ?altered
   mental status.  Unresponsive to dilt, so was cardioverted in ED.  Now
   in NSR.  Precipitant for A. fib/tachycardia remains unclear, but
   differential is hypoxia (post-obstructive LLL collapse, ?pneumonia),
   dehydration (given 2L IVF in ED, low CVP).  Has a CHADS2 score of
   three, but episode of A. fib with RVR began and ended in the ED and
   patient arrived in the ED in NSR.  Heparin drip started in the ED, but
   this was discontinued given that a. fib had resolved after
   cardioversion and he did not remain in A. fib for >48 hours.  Now off
   heparin and in NSR.
   - monitor on tele
   .
   3.  Hypotension. Patient hypotensive in the ED in setting of receiving
   intubation meds and being on diltiazem drip.  Now normotensive off
   pressors.  CVPs low but responding to fluid bolus.
   - hold antihypertensives (imdur, nifedipine, metoprolol)
   - fluid bolus for hypotension, low CVP
   .
   4.  Headache.  Patient presents with severe frontal daily headaches
   associated with nausea and vomiting.  Likely realated to increased
   ICP.  Noted to have bilateral ventriculomegaly. Per neurosurg, since
   there is no tube or shunt, low likelihood for malfunction.  Also has
   vasogenic edema in cerebellum where patient is receiving XRT.
   - continue dexamethase at current doses
   - speak with neurosurg re: assessing ventriculostomy function
   - speak with rad onc re: adjustement of dexa dose
   .
   4.  SCLC. Diagnosis confirmed by biopsy on bronch two weeks ago.  Now
   s/p endobronchial stent placement.  Getting XRT to brain and upon
   completion of this will meet with medical oncology team.
   - continue dexamethasone
   .
   5. ?diarrhea.  Per neurosurg note, patient reported diarrhea.  No
   history of this from family.
   - send stool c. diff
   .
   6.  Hyperlipidemia
   - continue lipitor
   7.  CAD.  History of MI.  EF 35-40%.  Troponin up to 2 in setting of
   cardioversion, though no EKG changes noted.
   - continue aspirin, statin
   - hold BB
   - trend cardiac enzymes
   .
   8.  CRI.  Cr at baseline.
   - follow Cr
   - renally dose all meds
   .
   Ppx: PPI, HSQ, VAP precautions
   FULL CODE
   Communication: son [**Name (NI) 225**]
   ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2161-11-16**] 09:56 PM
   20 Gauge - [**2161-11-16**] 09:58 PM
   Prophylaxis:
   DVT:  HSQ
   Stress ulcer:  PPI
   VAP:  vap precautions
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu care

2161-11-18 07:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2161-11-17**] 09:15 AM
 EKG - At [**2161-11-17**] 11:00 AM
   bradycardic in 40s
 OR SENT - At [**2161-11-17**] 04:30 PM
 OR RECEIVED - At [**2161-11-17**] 05:30 PM
   Allergies:
   Zetia (Oral) (Ezetimibe)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2161-11-17**] 08:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-18**] 01:04 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Amiodarone - 0.5 mg/min
   Esmolol - 25 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2161-11-17**] 06:05 PM
   Diltiazem - [**2161-11-17**] 06:10 PM
   Pantoprazole (Protonix) - [**2161-11-18**] 12:46 AM
   Heparin Sodium (Prophylaxis) - [**2161-11-18**] 12:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-18**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (96.9
   HR: 114 (45 - 183) bpm
   BP: 97/51(63) {78/37(49) - 179/93(113)} mmHg
   RR: 12 (9 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 59 kg (admission): 59 kg
   CVP: 7 (6 - 12)mmHg
   Total In:
                                                                  4,222 mL
                                                                    900 mL
   PO:
   TF:
   IVF:
                                                                  4,162 mL
                                                                    900 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    370 mL
   Urine:
                                                                  1,085 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,137 mL
                                                                    530 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 658 (577 - 6,000) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 17
   PIP: 10 cmH2O
   Plateau: 9 cmH2O
   Compliance: 112.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.32/39/185/20/-5
   Ve: 6.5 L/min
   PaO2 / FiO2: 463
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left, Diminished: left
   base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   172 K/uL
   181 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.6 mEq/L
   47 mg/dL
   110 mEq/L
   141 mEq/L
   29.0 %
   16.8 K/uL
        [image002.jpg]
                            [**2161-11-16**]  08:48 PM
                            [**2161-11-16**]  11:09 PM
                            [**2161-11-17**]  03:50 AM
                            [**2161-11-17**]  03:35 PM
                            [**2161-11-17**]  09:40 PM
                            [**2161-11-18**]  02:13 AM
                            [**2161-11-18**]  03:23 AM
   WBC
   7.6
   7.4
   7.7
   16.8
   Hct
   27.8
   24.2
   26.9
   29.0
   Plt
   136
   113
   115
   172
   Cr
   1.4
   1.4
   1.5
   1.5
   TropT
   2.04
   1.34
   0.86
   TCO2
   27
   21
   21
   Glucose
   155
   140
   137
   181
   Other labs: PT / PTT / INR:12.6/28.7/1.1, CK / CKMB /
   Troponin-T:75/13/0.86, ALT / AST:20/21, Alk Phos / T Bili:49/0.3,
   Differential-Neuts:91.0 %, Lymph:7.2 %, Mono:1.7 %, Eos:0.0 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:240 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   81 y/o male with left lung met small cell CA to the brain s/p stenting
   with migration of the stent from the left main bronchus to the trachea.
   He was admitted with hypoxemic respiratory failure.
   > Hypoxemic Resp failure: Multifocal in etiology, at least in part do
   to stent migration with possible super infection of the collapsed left
   lower lobe (chronic) which is at high risk for post obstructive process
   (we are currently growing out GPC). Has a hx of MRSA so will cover with
   Vanco and Pip-Tazo pending the results of the BAL from [**11-17**]. The plan
   is to go to the OR today with removal of stent, he may also be able to
   be extubated at that time.
   - Cover broadly for infection pending clx data as above
   - OR today for stent removal.
   - re-evaluation of ventilation needs
 ATRIAL FIBRILLATION (AFIB): received cardioversion in the ED (his
   first ED ECG was in NSR, then into AFib with RVR and now back in NSR).
   Given he was in A-fib for last then 24 hrs we do not need to
   empirically anticoagulate. He appears to to be in NSR at present,
   whther he was in Afib or MAT is not clear. The stimulus is likely to be
   [**2-7**] his resp dsitress (hypox)
   - Follow   u/p ECG
   - Hold home meds for now
   > Hypotension: in the setting of intubation and sedation, we will cont
   to fluid bolus and hold his anti-htn regimen for now.
   > Headache: known mets and ventriculomegaly (with shunt in place), has
   been evaluated by neurosurg and our following. No change on head CT
   - Willl f/u neurosurg recs
   > Renal failure: Appears to be at his baseline renal function
   - cont to monitor electrolytes
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-11-16**] 09:56 PM
   20 Gauge - [**2161-11-16**] 09:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2161-11-20 07:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   > extubated
   Allergies:
   [** 2635**] (Oral) (Ezetimibe)
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-11-19**] 08:14 AM
   Vancomycin - [**2161-11-19**] 08:58 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-11-19**] 11:16 AM
   Pantoprazole (Protonix) - [**2161-11-20**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2161-11-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-20**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 64 (60 - 82) bpm
   BP: 171/56(87) {124/49(66) - 181/66(94)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59 kg (admission): 59 kg
   Height: 63 Inch
   CVP: -5 (-9 - -3)mmHg
   Total In:
                                                                    763 mL
                                                                     83 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                    703 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  3,205 mL
                                                                    565 mL
   Urine:
                                                                  3,205 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,442 mL
                                                                   -482 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 476 (476 - 516) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.1 g/dL
   141 K/uL
   119 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   64 mg/dL
   109 mEq/L
   141 mEq/L
   29.3 %
   8.3 K/uL
        [image002.jpg]
                            [**2161-11-16**]  11:09 PM
                            [**2161-11-17**]  03:50 AM
                            [**2161-11-17**]  03:35 PM
                            [**2161-11-17**]  09:40 PM
                            [**2161-11-18**]  02:13 AM
                            [**2161-11-18**]  03:23 AM
                            [**2161-11-19**]  03:04 AM
                            [**2161-11-19**]  08:06 AM
                            [**2161-11-19**]  08:04 PM
                            [**2161-11-20**]  03:35 AM
   WBC
   7.4
   7.7
   16.8
   7.9
   8.3
   Hct
   24.2
   26.9
   29.0
   27.2
   29.3
   Plt
   113
   115
   172
   131
   141
   Cr
   1.4
   1.5
   1.5
   1.6
   1.6
   TropT
   1.34
   0.86
   0.76
   1.22
   1.11
   TCO2
   27
   21
   21
   Glucose
   140
   137
   181
   132
   119
   Other labs: PT / PTT / INR:12.6/27.9/1.1, CK / CKMB /
   Troponin-T:50/7/1.11, ALT / AST:20/21, Alk Phos / T Bili:49/0.3,
   Differential-Neuts:93.4 %, Lymph:3.4 %, Mono:2.8 %, Eos:0.3 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.2 g/dL, LDH:240 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   81 y/o male with left lung met small cell CA to the brain s/p stenting
   with migration of the stent from the left main bronchus to the trachea.
   He was admitted with hypoxemic respiratory failure and his course has
   been complicated by Afib with RVR
    > Hypoxemic Resp failure: Multifocal in etiology, at least in part do
   to stent migration with possible super infection of the collapsed left
   lower lobe (chronic) which is at high risk for post obstructive process
   (we are currently growing out GPC). Has a hx of MRSA so will cover with
   Vanco and Pip-Tazo pending the results of the BAL from [**11-17**]. He is
   currently growing staph aureus from sputum (presumably MRSA), he is at
   high risk for repeated post obsx events. He conts  to have wheeze which
   is probably at least in part [**2-7**] TBM
   - Cont Vancomycin, D/C Pip-Tazo given sputum clx
   - D/c to goal net neg
   - Hopeful for extubation when MS improves, (stopped sedation 8AM)

 ATRIAL FIBRILLATION (AFIB)/Enzyme leak: received cardioversion in
   the ED (his first ED ECG was in NSR, then into AFib with RVR and now
   back in NSR). He had 2nd episode of Afib with high RVR ([**11-17**]) now
   being managed with digoxin and amiodarone. His enzymes were elevated on
   [**11-18**] which is not surprising given that he had significant RVR on the
   evening of `[**11-17**].  We will cont to follow enzymes and ECG, appreciate
   cardiology input.
   - Follow enzymes, repeat ECG (some mild ST elevations in V2-V3, which
   have been present previously noted)
   - Cont amio and digoxin
   - Cont ASA and statin
   . > Headache: known mets and ventriculomegaly (with shunt in place),
   has been evaluated by neurosurg and our following. No change on head CT
   - Willl f/u neurosurg recs
   > Renal failure: Appears to be at his baseline renal function
   - cont to monitor electrolytes
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-11-16**] 09:56 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes